US04154947
Preparation of 1-(2,6-Dichlorobenzylideneamino)-3-furfurylguanidine
A solution of 1.75 g. of 2,6-dichlorobenzaldehyde and 2.82 g. of 1-amino-3-furfurylguanidine hydriodide in 15 ml. of glacial acetic acid is heated at 100° C. for one hour, cooled, and diluted with absolute ether until crystallization occurs. Filtration gives 3.51 g. of gray-colored crystals. The crystals are dissolved by warming in absolute ethanol and the solution is treated with excess 10N sodium hydroxide and diluted with water to turbidity. Chilling and filtration give 2.00 g. of nearly colorless crystals. Two recrystallizations from aqueous ethanol, using activated charcoal, give the desired product as colorless crystals, m.p. 134°-135.5° C.

reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 1-amino-3-furfurylguanidine hydriodide | I.NNC(=N)NCC1=CC=CO1
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 10N | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(2,6-Dichlorobenzylideneamino)-3-furfurylguanidine | ClC1=C(C=NNC(=N)NCC2=CC=CO2)C(=CC=C1)Cl | C13H12Cl2N4O
